US05700824
Preparation of 3-(2-chloro-6-fluorophenyl)-5-[3-(3-chloro-5-trifluoromethylpyridine-2-yloxy)-5-methoxyphenyl]-1-methyl-1H-1,2,4-triazole (Compound No. 523)
A mixture of N-methyl-N-(p-toluenesulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride (0.90 g), 3-(3-chloro-5-trifluoromethylpyridine-2-yloxy)-5-methoxybenzonitrile (0.80 g), anhydrous iron (III) chloride (0.80 g) and o-dichlorobenzene (5 ml) is stirred at an oil bath temperature of 140° C. for 30 minutes. After cooling, it is dissolved in chloroform (100 ml) and washed with dilute hydrochloric acid, dilute aqueous solution of sodium hydroxide and saline. Then, it is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography using mixed solvent of hexane-ethyl acetate as eluent to give 0.60 g of desired compound.

reactant | N-methyl-N-(p-toluenesulfonyl)-2-chloro-6-fluorobenzohydrazonoyl chloride | 0.90 g | CN(N=C(C1=C(C=CC=C1F)Cl)Cl)S(=O)(=O)C1=CC=C(C=C1)C | C15H13Cl2FN2O2S
reactant | 3-(3-chloro-5-trifluoromethylpyridine-2-yloxy)-5-methoxybenzonitrile | 0.80 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC=1C=C(C#N)C=C(C1)OC | C14H8ClF3N2O2
reactant | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | iron (III) chloride | 0.80 g | [Fe](Cl)(Cl)Cl
product | 3-(2-chloro-6-fluorophenyl)-5-[3-(3-chloro-5-trifluoromethylpyridine-2-yloxy)-5-methoxyphenyl]-1-methyl-1H-1,2,4-triazole | 0.60 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=CC(=CC(=C1)OC)OC1=NC=C(C=C1Cl)C(F)(F)F)C | C22H14Cl2F4N4O2
